US07825265B2
1-(1-Cyclohexen-1-yl)-3-methoxy-benzene
In a dry and argon flushed two neck flask, tris(dibenzylidedeacetone) dipalladium (275 mg, 0.3 mmol) and tri-2-furylphosphine (278 mg, 1.2 mmol) was dissolved in N-methylpyrrolidone. Tetrabutyl ammonium iodide (2.21 g, 6.0 mmol) and 1-cyclohexenyl-1-trifluoromethanesulfonate (1.85 g, 6.0 mmol) were added to the reaction mixture followed by phenylzinc bromide(12 mL, 1.0 M, 12 mmol) and the reaction mixture was left stirring at room temperature over night. The reaction was quenched with saturated ammonium chloride solution. The product was filtered through celite, taken up in ethyl acetate and washed with brine, dried over Na2SO4, and concentrated in vacuo. The title compound was obtained and purified by flash chromatography (silica, 0-10% EtOAc in heptane). Yield: 700 mg. 1H-NMR (400 MHz, CDCl3) δ: 7.23 (t, J=7.8 Hz, 1H), 7.04 (d, J=7.8 Hz, 1H), 6.98 (s, 1H), 6.81 (d, J=7.8 Hz, 1H), 6.18-6.17 (m, 1H), 3.82 (s, 3H), 2.45-2.42 (m, 2H), 2.24-2.21 (m, 2H), 1.83-1.79 (m, 2H), 1.72-1.68 (m, 2H).

reactant | tri-2-furylphosphine | 1.2 mmol, 278 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | phenylzinc bromide | 12 mmol, 1.0 M, 12 mL | [Br-].C1(=CC=CC=C1)[Zn+]
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
catalyst | Tetrabutyl ammonium iodide | 6.0 mmol, 2.21 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(1-Cyclohexen-1-yl)-3-methoxy-benzene | C1(=CCCCC1)C1=CC(=CC=C1)OC | C13H16O
